US09340556B2
A mixture of ethyl 5-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate and ethyl 7-fluoro-5,6-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (103 g, 349 mmol), and potassium carbonate (72.3 g, 523 mmol) in triethyl phosphate (297 ml, 1744 mmol) was stirred at 120° C. for 8 h. LCMS indicated completion of the reaction. The reaction mixture was cooled down to rt and diluted with water, extracted with DCM, dried over sodium sulfate and concentrated in vacuo. The crude material was recrystallized in EtOH, the precipitate was collected by filtration and washed by cold EtOH and dried in air. Another recrystallization afforded pure ethyl 1-ethyl-5-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate (65 g, 201 mmol, 57.6% yield) as a brown solid. LCMS: (M+H)+: 324.1.

reactant | ethyl 5-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | FC1=C2C(C(=CNC2=CC(=C1OC)OC)C(=O)OCC)=O | C14H14FNO5
reactant | ethyl 7-fluoro-5,6-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 349 mmol, 103 g | FC1=C(C(=C2C(C(=CNC2=C1)C(=O)OCC)=O)OC)OC | C14H14FNO5
reactant | potassium carbonate | 523 mmol, 72.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethyl phosphate | 1744 mmol, 297 ml | P(=O)(OCC)(OCC)OCC | C6H15O4P
solvent | water | O | H2O
product | ethyl 1-ethyl-5-fluoro-6,7-dimethoxy-4-oxo-1,4-dihydroquinoline-3-carboxylate | 201 mmol, 65 g, 57.6% yield | C(C)N1C=C(C(C2=C(C(=C(C=C12)OC)OC)F)=O)C(=O)OCC | C16H18FNO5
